US06225352B1
Sodium hydride (257 mg, (428 mg of 60% dispersion), 10.6 mmol, 2 eq) was added to a solution of p-bromobenzyl alcohol (1 g, 5.3 mmol) in dry toluene (30 mL). Once the concomitant effervescing had ceased, p-toluenesulphonyl chloride (2.04 g, 10.6 mmol, 2 eq) was added and the mixture stirred at room temperature, 12 hours. The toluene was removed in vacuo and the residue taken up in water and extracted into ethyl acetate portions. The combined organic layers were washed (brine), dried (MgSO4), filtered, and concentrated in vacuo to give the crude product which was purified by column chromatography (silica gel, eluant:ethyl acetate/heptane mixtures) to give the p-bromobenzyl tosylate as a white solid (yield: 400 mg, 22%);

reactant | Sodium hydride | 10.6 mmol, 257 mg, 2 eq | [H-].[Na+]
reactant | p-bromobenzyl alcohol | 5.3 mmol, 1 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | p-toluenesulphonyl chloride | 10.6 mmol, 2.04 g, 2 eq | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | p-bromobenzyl tosylate | yield: 400 mg, 22% | S(=O)(=O)(OCC1=CC=C(C=C1)Br)C1=CC=C(C)C=C1 | C14H13BrO3S
